US06316467B1
A mixture of N-cyclohexyl-4-hydroxy-4-phenyl-butyramide (3.98 g, 15.2 mmol), prepared in the previous step, and pyridinium chlorochromate (4.94 g, 22.9 mmol) in 200 ml of methylene chloride was stirred at room temperature for 2.5 hours. The reaction was poured onto 400 g of silica gel (230-400 mesh) and the material eluted with methylene chloride-ethyl acetate. Isolation of the major component gave N-cyclohexyl-4-oxo-4-phenyl-butyramide (3.28 g, 83%) as a light green solid, mp 109-111° C.

reactant | N-cyclohexyl-4-hydroxy-4-phenyl-butyramide | 15.2 mmol, 3.98 g | C1(CCCCC1)NC(CCC(C1=CC=CC=C1)O)=O | C16H23NO2
reactant | pyridinium chlorochromate | 22.9 mmol, 4.94 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-cyclohexyl-4-oxo-4-phenyl-butyramide | 3.28 g, 83% | C1(CCCCC1)NC(CCC(C1=CC=CC=C1)=O)=O | C16H21NO2
